US08247576B2
89B. 4-[4-(1H-Pyrazol-4-yl)-phenyl]-1,2,3,4,5,6-hexahydro-[4,4′]bipyridinyl
4-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1, followed by treatment with 4M HCl in dioxane, to obtain the title compound. LCMS (PS-B4) Rt 4.28 min [M+H]+ 305. 1H NMR (Me-d3-OD) δ 2.76 (2H, br.t), 3.01 (2H, br.d), 3.24 (2H, br.t), 3.39 (2H, br.d), 7.58 (2H, d), 7.76 (2H, d), 8.17 (2H, d), 8.37 (2H, s), 8.82 (2H, d).

reactant | 4-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C21H25ClN2O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[4-(1H-Pyrazol-4-yl)-phenyl]-1,2,3,4,5,6-hexahydro-[4,4′]bipyridinyl | N1N=CC(=C1)C1=CC=C(C=C1)C1(CCNCC1)C1=CC=NC=C1 | C19H20N4
